US07417065B2
1-[2-(4-Isobutyl-3-trifluoromethyl-phenyl)-benzooxazol-6-ylmethyl]-azetidine-3-carboxylic acid
To a solution of [2-(4-isobutyl-3-trifluoromethyl-phenyl)-benzooxazol-6-yl]-methanol (1 eq) in dioxane (0.2 M) is treated with MnO2 (10 eq). The resulting mixture is refluxed for 20 minutes and filtered through celite. After concentration, the residue is redissolved in MeOH (0.2 M) and is added azetidine-3-carboxylic acid (2 eq) and Et3N (1.8 eq). The resulting mixture is heated at 50° C. for 1 hour. After cooling to room temperature, NaBH3CN (3 eq) is added in portions. The final compound is purified by preparative LCMS. 1H NMR (400 MHz, CD3OD) δ 8.49 (s, 1H), 8.38 (d, J=8.4 Hz, 1H), 7.88 (s, 1H), 7.84 (d, J=8.4 Hz, 1H), 7.66 (d, J =8.4 Hz, 1H), 7.52 (d, J=8.4 Hz, 1H), 4.57 (s, 2H), 4.34 (m, 4H), 3.70 (m, 1H), 2.76 (d, J=6.8 Hz, 2H), 2.03 (m, 1H), 0.95 (d, J =7.2 Hz, 6H). MS: (ES+): 433.2 (M+1)+.

reactant | [2-(4-isobutyl-3-trifluoromethyl-phenyl)-benzooxazol-6-yl]-methanol | 1 eq | C(C(C)C)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC(=C2)CO)C(F)(F)F | C19H18F3NO2
reactant | azetidine-3-carboxylic acid | 2 eq | N1CC(C1)C(=O)O | C4H7NO2
reactant | Et3N | 1.8 eq | CCN(CC)CC | C6H15N
reactant | NaBH3CN | 3 eq | [BH3-]C#N.[Na+]
solvent | dioxane | 0.2 M | O1CCOCC1 | C4H8O2
catalyst | MnO2 | 10 eq | O=[Mn]=O
product | 1-[2-(4-Isobutyl-3-trifluoromethyl-phenyl)-benzooxazol-6-ylmethyl]-azetidine-3-carboxylic acid | C(C(C)C)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC(=C2)CN2CC(C2)C(=O)O)C(F)(F)F | C23H23F3N2O3
